US07858643B2
3-[(R)-1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-[1-(1-methyl-piperidin-4-yl)-1H-pyrazol-4-yl]-pyridin-2-ylamine
The title compound was prepared according to procedure 62 using 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine and 4-(4-bromo-pyrazol-1-yl)-1-methy-piperidine (prepared according to general procedure 11. 1H NMR (400 MHz, CDCl3) δ 7.65 (s, 1H), 7.55 (s, 1H), 7.50 (s, 1H), 7.31 (m, 1H), 7.06 (m, 1H), 6.87 (s, 1H), 6.08 (m, 1H), 5.50 (bs, 2H), 4.18 (m, 1H), 3.11 (m, 2H), 2.40 (s, 3H), 2.30 (m, 2H), 2.20 (m, 4H), 2.07 (s, 3H), 1.86 (d, J=8 Hz, 3H); LCMS: 464 [M+1]; c-Met Ki: 0.01 μM.

reactant | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C19H22BCl2FN2O3
reactant | 4-(4-bromo-pyrazol-1-yl)-1-methy-piperidine | BrC=1C=NN(C1)C1CCN(CC1)C | C9H14BrN3
product | 3-[(R)-1-(2,6-Dichloro-3-fluoro-phenyl)-ethoxy]-5-[1-(1-methyl-piperidin-4-yl)-1H-pyrazol-4-yl]-pyridin-2-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)C=1C=NN(C1)C1CCN(CC1)C)N | C22H24Cl2FN5O
